US04082850
A mixture of 100 g of ethyl o-toluate, 100 g of N-bromosuccinimide and 0.3 g of benzoyl peroxide in 1 liter of carbon tetrachloride is heated under reflux for 3 hours with stirring and filtered. The filtrate is washed with 3% aqueous sodium hydroxide and then with water, dried over magnesium sulfate and concentrated under reduced pressure to provide ethyl α-bromo-o-toluate as an oil.

reactant | ethyl o-toluate | 100 g | C=1(C(=CC=CC1)C(=O)OCC)C | C10H12O2
reactant | N-bromosuccinimide | 100 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.3 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 1 liter | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl α-bromo-o-toluate | BrCC=1C(=CC=CC1)C(=O)OCC | C10H11BrO2
